US07985769B2
3-(2,4-Dichloro-benzylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester (70 mg, 0,18 mmol) was dissolved in a mixture of THF-MeOH—H2O (3:2:1) (20 mL) and then 1080 ul of LiOH 1N was added to it. After 16 h of stirring at temperature of 100° C., solvents were removed and then partitioned between 10 ml of H2O, 2 ml of KHSO4 5% and 10 ml of EtOAc. The organic layer was separated and the aqueous phase was washed twice with ethyl acetate (2×10 mL). The combined ethyl acetate layer was dried (MgSO4) and concentrated to obtain 43 mg (63%) of 3-(2,4-Dichloro-benzylamino)-5-phenyl-thiophene-2-carboxylic acid 1H-NMR (DMSO, 400 MHz): δ 7.65 ppm (m, 3H, Haro); 7.43-7.32 ppm (m, 5H, Haro); 7.23 ppm (s, 1H, Haro); 4.61 ppm (d, 2H, N—CH2)

reactant | 3-(2,4-Dichloro-benzylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0,18 mmol, 70 mg | COC(=O)C=1SC(=CC1NCC1=C(C=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C19H15Cl2NO2S
reactant | LiOH | 1N, 1080 ul | [Li+].[OH-]
solvent | THF MeOH—H2O | 20 mL | C1CCOC1.CO.O
product | 3-(2,4-Dichloro-benzylamino)-5-phenyl-thiophene-2-carboxylic acid | 43 mg, 63% | ClC1=C(CNC2=C(SC(=C2)C2=CC=CC=C2)C(=O)O)C=CC(=C1)Cl | C18H13Cl2NO2S
